US07504404B2
3-(5-{5-[3-(2,2,2-Trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-yl}-[1,2,4]oxadiazol-3-yl)-benzenesulfonamide
The title compound was prepared from 5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.10) (237 mg, 0.5 mmol) and N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (161 mg, 0.75 mmol) according to general procedure II. Obtained after purification by flash chromatography (ethyl acetate/hexane) and crystallization (dichloromethane) as a light yellow solid (220 mg, 67%). MS (EI) 652.2 [(M)+]; mp 250° C.

reactant | 5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 237 mg | FC(COC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O)(F)F | C17H8F9N3O3
reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 3-(5-{5-[3-(2,2,2-Trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-yl}-[1,2,4]oxadiazol-3-yl)-benzenesulfonamide | FC(COC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=NC(=NO2)C=2C=C(C=CC2)S(=O)(=O)N)(F)F | C24H13F9N6O4S
